US04492692
Methyl triphenylphosphonium iodide was treated with potassium t-butoxide in DMSO. After generation of the phosphorane, 2-fluoro-4-formyl-1-triphenylmethylimidazole was added, and the mixture heated 2 hours at 60°. Extractive work-up and chromatography gave 2-fluoro-1-triphenylmethyl-4-vinylimidazole, having the following n.m.r. in CDCl3 : 5.1 (d, 1H); 5.77 (d, 1H); 6.26-6.63 (m, 1H); 6.48 (s, 1H); 7.1-7.5 (m, 15H).

reactant | Methyl triphenylphosphonium iodide | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | phosphorane | [PH5] | H5P
reactant | 2-fluoro-4-formyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-fluoro-1-triphenylmethyl-4-vinylimidazole | FC=1N(C=C(N1)C=C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19FN2
